US07691854B2
Isopropyl 3-{[3-(trifluoromethyl)phenyl]amino}-2-butenoate
To a solution of 4.33 g (30 mmol) isopropyl 3-oxobutanoate in 90 ml benzene are added 4.83 g (30 mmol) 3-(trifluoromethyl)aniline and 1.80 g (30 mmol) acetic acid. The mixture is stirred under reflux for four hours using a Dean-Stark trap to remove water. After removal of the solvent in vacuo, the residue is purified by preparative HPLC (column: YMC C18 ODS-AQ 250 mm×30 mm, 11 μm; solvent A: acetonitrile, solvent B: water; gradient: 0 min 10% A, 3 min 10% A, 11 min 90% A, 13 min 90% A, 13.2 min 10% A, 15 min 10% A; wavelength: 220 nm; injection volume: ca. 900 μl ethanol solution; number of injections: 8). The product containing fractions are combined and concentrated in vacuo.

reactant | isopropyl 3-oxobutanoate | 30 mmol, 4.33 g | O=C(CC(=O)OC(C)C)C | C7H12O3
reactant | 3-(trifluoromethyl)aniline | 30 mmol, 4.83 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | acetic acid | 30 mmol, 1.80 g | C(C)(=O)O | C2H4O2
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | Isopropyl 3-{[3-(trifluoromethyl)phenyl]amino}-2-butenoate | FC(C=1C=C(C=CC1)NC(=CC(=O)OC(C)C)C)(F)F | C14H16F3NO2
